US07214802B2
A solution of 7.20 g (24.6 mmol) of 2-bromo-1-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-ethanone and 8.52 g (51.6 mmol) of 3-amino-4-methyl benzoic acid methyl ester in EtOH (30 mL) was heated to 75° C. for 16 h. The solution was cooled and allowed to stand at rt for 6 h. The solids were filtered off and washed with cold EtOH to provide 3-[2-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethylamino]-4-methyl-benzoic acid methyl ester as a white powder (3.75 g). ESI MS m/z 378 [C22H23N3O3+H]+.

reactant | 2-bromo-1-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-ethanone | 24.6 mmol, 7.20 g | BrCC(=O)C=1C=NN(C1CC)C1=CC=CC=C1 | C13H13BrN2O
reactant | 3-amino-4-methyl benzoic acid methyl ester | 51.6 mmol, 8.52 g | COC(C1=CC(=C(C=C1)C)N)=O | C9H11NO2
solvent | EtOH | 30 mL | CCO | C2H6O
product | 3-[2-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-2-oxo-ethylamino]-4-methyl-benzoic acid methyl ester | 3.75 g | COC(C1=CC(=C(C=C1)C)NCC(=O)C=1C=NN(C1CC)C1=CC=CC=C1)=O | C22H23N3O3
